US05922727
28-a) [3,4-Di(t-butyldimethylsilyloxymethyl)cyclopent-1-en-1-yl]methyl bromide
A mixture of carbon tetrabromide (3.18 g, 9.6 mmol) and triphenyl phosphine (3.15 g, 12.9 mmol) were added to [3,4-di(t-butyldimethylsilyloxymethyl)cyclopent-1-en-1-yl]methyl alcohol (3.09 g, 8.0 mmol) in dichloromethane under ice bath and then, the reaction mixture was stirred for 30 min at 0° C. After overnight at room temperature, the reaction mixture was extracted with dichloromethane, dried with MgSO4, filtered, concentrated and separated by column chromatography to give a desirable product (2.43 g).

reactant | carbon tetrabromide | 9.6 mmol, 3.18 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenyl phosphine | 12.9 mmol, 3.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | [3,4-di(t-butyldimethylsilyloxymethyl)cyclopent-1-en-1-yl]methyl alcohol | 8.0 mmol, 3.09 g | [Si](C)(C)(C(C)(C)C)OCC1C=C(CC1CO[Si](C)(C)C(C)(C)C)CO | C20H42O3Si2
solvent | dichloromethane | ClCCl | CH2Cl2
product | [3,4-Di(t-butyldimethylsilyloxymethyl)cyclopent-1-en-1-yl]methyl bromide | 2.43 g, Yield(%): 67.4 | [Si](C)(C)(C(C)(C)C)OCC1C=C(CC1CO[Si](C)(C)C(C)(C)C)CBr | C20H41BrO2Si2
